US08389511B2
tert-Butyl (3R)-3-[[5-amino-4-(ethylamino)-2-(trifluoromethyl)benzoyl](isopropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[[4-(ethylamino)-5-nitro-2-(trifluoromethyl)benzoyl]-(isopropyl)amino]piperidine-1-carboxylate (610 mg) in tetrahydrofuran (10 ml) was added 10% palladium-carbon (600 mg, 50% wet.), and the mixture was stirred at room temperature under hydrogen atmosphere for 3 hours. The reaction solution was filtered on celite, washed with tetrahydrofuran, and the filtrate was concentrated under reduced pressure to give the title compound (550 mg).

reactant | tert-butyl (3R)-3-[[4-(ethylamino)-5-nitro-2-(trifluoromethyl)benzoyl]-(isopropyl)amino]piperidine-1-carboxylate | 610 mg | C(C)NC1=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1[N+](=O)[O-])C(F)(F)F | C23H33F3N4O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | tert-Butyl (3R)-3-[[5-amino-4-(ethylamino)-2-(trifluoromethyl)benzoyl](isopropyl)amino]piperidine-1-carboxylate | 550 mg | NC=1C(=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C1)C(F)(F)F)NCC | C23H35F3N4O3
